Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old lady, h.o mild
dementia, hypothyroidism, HTN and HLD who was transferred from
urgent care after she fell walking downhill with her friends
on her way to play bingo. 
She was taken to the Urgent care where a CT of the head showed a
small SAH in the left frontotemporal lobe, CT neck was negative
and a CT maxillofacial was notable for a minimally displaced
nasal septum fracture and possible right nasal bone Fx. She was
transferred here for further evaluation. A lip laceration was
primarily repaired at the urgent care. 

Of note the patient states that she has been falling more often
the past week and that she has recently completed a course of ___
and has been working with a physical therapist. 

At the time of our visit she is in no acute distress, breathing
on RA, speaking in full sentences although a poor historian, her
daughters helped with the history. NS had seen the patient and
recommended non-op management. 

 
Past Medical History:
HTN , HLD, hypothyroidism, hip OA
 
Social History:
___
Family History:
Non-contribitory
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 053)
    Temp: 97.5 (Tm 98.1), BP: 128/65 (128-145/61-75), HR: 58
(58-76), RR: 18 (___), O2 sat: 93% (93-96), O2 delivery: Ra

GEN: Well appearing, no acute distress
HEENT: has an ecchymosis under the left eye, midface stable and
non-tender. nose stable but TTP. no crepitation.
CV: HDS
PULM: No signs of respiratory distress.
EXT: Warm, well-perfused
 
Pertinent Results:
CXR - ___

FINDINGS:  
  
Surgical chain sutures project over the right upper lung.  The 
lungs are 
otherwise clear.  There is no consolidation, effusion, or edema. 
 The 
cardiomediastinal silhouette is within normal limits.  No acute 
osseous 
abnormalities.  Vertebroplasty changes noted at a lower thoracic 
vertebral 
body level. 
  
IMPRESSION:  
  
No acute cardiopulmonary process. 

XRay Left Knee - ___

FINDINGS:  
  
No acute fracture or dislocation is seen.  Minimal to no 
suprapatellar joint 
effusion is seen.  Small patellar enthesophyte seen.  No 
concerning osseous 
lesion is seen.  There is no radiopaque foreign body. 
  
IMPRESSION:  
  
No acute fracture of the left knee. 

 
Brief Hospital Course:
Prior to arrival in the ___ ED, she was taken to the Urgent 
care where a CT of the head showed a small SAH in the left 
frontotemporal lobe, CT neck was negative
and a CT maxillofacial was notable for a minimally displaced 
nasal septum fracture and possible right nasal bone Fx. A lip 
laceration was primarily repaired at the urgent care. She was 
transferred to ___ for further evaluation. 

In the emergency department Ms. ___ was evaluated by the 
neurosurgery team, who did not feel she required any further 
imaging or seizure prophylaxis. A left knee xray was obtained, 
which did not show any fracture or other abnormality. She was 
admitted for observation to the trauma surgery service. The 
following morning she was evaluated by physical therapy, who 
felt she should use a rolling walker at home and would benefit 
from home ___. She was discharged in the care of her two 
daughters with instructions to follow up with Plastic Surgery in 
2 weeks with regards to her facial injuries.
 
Medications on Admission:
1.  Allopurinol ___ mg PO DAILY  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Furosemide 20 mg PO DAILY  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Venlafaxine XR 150 mg PO DAILY  
 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Furosemide 20 mg PO DAILY  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SAH, nasal septum fracture, lip laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after a fall. You had a 
laceration of your lip, a fracture of your nasal septum, and a 
very small bleed in your brain. You were evaluated by 
neurosurgery, who did not feel you needed any further treatment 
or imaging. You were evaluated by physical therapy, who felt 
that you should use a rolling walker after discharge. You are 
now ready to be discharged home to continue your recovery.
 
Followup Instructions:
___